US09163023B2
A solution of 1-methyl-1H-indazole-5-carbonitrile (205 mg, 1.304 mmol), hydroxylamine hydrochloride (363 mg, 5.22 mmol) and sodium bicarbonate (548 mg, 6.52 mmol) in Methanol (6 mL) was heated to 60 degrees for 90 min. The reaction mixture was cooled to ambient temperature and partitioned between EtOAc and water. The aqueous layer was extracted with EtOAc, and the combined organics washed with brine, dried (Na2SO4) and concentrated to afford the crude N′-hydroxy-1-methyl-1H-indazole-5-carboximidamide (174 mg, 0.915 mmol, 70% yield). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.15-1.38 (m, 6H) 2.13 (s, 3H) 4.18 (dq, J=19.59, 7.15 Hz, 4H) 4.98 (br. s., 1H) 8.90 (br. s., 1H). LC/MS (m/z) ES+=191 (M+1).

reactant | 1-methyl-1H-indazole-5-carbonitrile | 1.304 mmol, 205 mg | CN1N=CC2=CC(=CC=C12)C#N | C9H7N3
reactant | hydroxylamine hydrochloride | 5.22 mmol, 363 mg | Cl.NO
reactant | sodium bicarbonate | 6.52 mmol, 548 mg | C([O-])(O)=O.[Na+]
solvent | Methanol | 6 mL | CO | CH4O
product | N′-hydroxy-1-methyl-1H-indazole-5-carboximidamide | 0.915 mmol, 174 mg, 70% yield | ON=C(N)C=1C=C2C=NN(C2=CC1)C | C9H10N4O
